US08067447B2
Dissolved LiAl(OtBu)3H (509 mg, 2.0 mmol) in 2 mL THF and then added a solution of dimethyl 2-((1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methyl)-2-methylmalonate (215 mg, 0.48 mmol) in 2 mL of THF. After 12 h, the reaction was incomplete so more LiAl(OtBu)3H (509 mg, 2.0 mmol) was added. After 12 h, quenched with MeOH, poured into brine and extracted with EtOAc×3. The organic layers were dried over MgSO4, filtered, and concentrated. The residue was purified on SiO2 by MPLC using a 1:3 to 1:1 EtOAc/hexane gradient. Obtained 121 mg (60% yield) of methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2-(hydroxymethyl)-2-methyl-3-phenylpropanoate. MS found: (M+H)+=419.

reactant | dimethyl 2-((1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methyl)-2-methylmalonate | 0.48 mmol, 215 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)OC)(C(=O)OC)C)C1=CC=CC=C1 | C26H23FN2O4
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2-(hydroxymethyl)-2-methyl-3-phenylpropanoate | 121 mg, 60% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)OC)(C)CO)C1=CC=CC=C1 | C25H23FN2O3
